US07060844B2
To a solution of oxindole (127 mg, 0.956 mmol) in THF (2.0 ml) cooled at 0° C. was added 1.0M LiHMDS in THF (1.91 ml). The mixture was stirred for 4 minutes at 0° C., then allowed to warm to room temperature for an additional 6 minutes. The solid 3,3-dimethyl-2-benzofuran-1(3H)-one (140 mg, 0.86 mmol) was added in one portion and the reaction rapidly stirred for 1.5 hours. The reaction was quenched into 30 ml 10% HCl aqueous solution. The resulting mixture was stirred 5 minutes, and then extracted into EtOAc. The combined organic layers were washed with water, brine, dried with anhydrous Na2SO4, and rotary evaporated to a yellow oil. The yellow oil was chromatographed through silica gel column (20% to 30% EtOAc/hexane gradient) to give (3E)-3-(3,3-dimethyl-2-benzofuran-1(3H)-ylidene)-1,3-dihydro-2H-indol-2-one as a yellow solid (99 mg, 41%).

reactant | oxindole | 0.956 mmol, 127 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | LiHMDS | 1.0M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3,3-dimethyl-2-benzofuran-1(3H)-one | 0.86 mmol, 140 mg | CC1(OC(C2=C1C=CC=C2)=O)C | C10H10O2
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | THF | 1.91 ml | C1CCOC1 | C4H8O
product | (3E)-3-(3,3-dimethyl-2-benzofuran-1(3H)-ylidene)-1,3-dihydro-2H-indol-2-one | 99 mg, 41% | CC1(O\C(\C2=C1C=CC=C2)=C/2\C(NC1=CC=CC=C21)=O)C | C18H15NO2
